US07138423B2
Step B: Trans-ethyl-4-phenylpyrrolidine-3-carboxylate hydrochloride
A mixture of trans-ethyl-1-benzyl-4-phenylpyrrolidine-3-carboxylate (1.69 g, 5.47 mmol), concentrated HCl (36% in H2O, 610 mg) and palladium on activated carbon (10 wt %, 169 mg) in ethyl alcohol (27 mL) was put on hydrogenator at 50 psi for overnight. The mixture was filtered through Celite pad and washed with ethyl alcohol. The filtrated was concentrated to give the title compound as a off-white solid (quantitative yield). 1H NMR (400 MHz, CD3OD) δ 1.11 (3H, t, J=6.8 Hz), 3.36–3.42 (2H, m), 3.63–3.75 (4H, m), 4.06–4.11 (2H, m), 7.29–7.39 (5H, m). HPLC purity (retention time): 95% (1.05 min, method C). MS: 220.23 (MH+).

reactant | trans-ethyl-1-benzyl-4-phenylpyrrolidine-3-carboxylate | 5.47 mmol, 1.69 g | C(C)OC(=O)[C@@H]1CN(C[C@H]1C1=CC=CC=C1)CC1=CC=CC=C1 | C20H23NO2
reactant | HCl | 610 mg | Cl | ClH
catalyst | palladium on activated carbon | 169 mg | [Pd] | Pd
solvent | ethyl alcohol | 27 mL | C(C)O | C2H6O
product | Trans-ethyl-4-phenylpyrrolidine-3-carboxylate hydrochloride | quantitative yield | Cl.C(C)OC(=O)[C@@H]1CNC[C@H]1C1=CC=CC=C1 | InChI=1S/C13H17NO2.ClH/c1-2-16-13(15)12-9-14-8-11(12)10-6-4-3-5-7-10;/h3-7,11-12,14H,2,8-9H2,1H3;1H/t11-,12+;/m0./s1
